US06960575B2
(1RS,2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}-3-phenyl-1-(1H-1,2,3,4-tetrazol-5-yl)-1-propanol (Compound No. 19-1)
Sodium azide (75.3 mg) and aluminum chloride (386 mg) are added to a solution of (2RS,3S)-2-acetoxy-3-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-4-phenylbutanenitrile (299 mg, Compound No. 18-1) in tetrahydrofuran (3.5 ml), and the mixture is stirred for two hours. The reaction mixture is warmed to 60° C. and stirred for three hours. The reaction mixture is cooled to room temperature, then water is added to the reaction mixture, and the whole is extracted with ethyl acetate. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled compound (242 mg).

reactant | Sodium azide | 75.3 mg | [N-]=[N+]=[N-].[Na+]
reactant | aluminum chloride | 386 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (2RS,3S)-2-acetoxy-3-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-4-phenylbutanenitrile | C(C)(=O)OC(C#N)[C@H](CC1=CC=CC=C1)NC(=O)CN1C(C(N(C=C1C1=CC=CC=C1)C(C)=O)C(C)C)=O | C29H32N4O5
reactant | water | O | H2O
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
product | (1RS,2S)-2-{(3RS)-4-Acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}-3-phenyl-1-(1H-1,2,3,4-tetrazol-5-yl)-1-propanol | 242 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)[C@H](C(O)C1=NN=NN1)CC1=CC=CC=C1)=O)C(C)C | C25H28N6O3
